US09034880B2
Preparation of 8-ethyl-5-(2-(4-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (Compound 462)
The title compound is prepared from a mixture of 8-ethyl-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole, 4-(trifluoromethyl)-3-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 8-ethyl-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | C(C)C1=CC=2C3=C(NC2C=C1)CCN(C3)C | C14H18N2
reactant | 4-(trifluoromethyl)-3-vinylpyridine | FC(C1=C(C=NC=C1)C=C)(F)F | C8H6F3N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 8-ethyl-5-(2-(4-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | C(C)C1=CC=2C3=C(N(C2C=C1)CCC=1C=NC=CC1C(F)(F)F)CCN(C3)C | C22H24F3N3
